US05849739
5-Bromo-3-(N-methylpyrrolidin-3-yl)-1 H-indole
To a stirred mixture of lithium aluminum hydride (1.10 g, 29.0 mmol, 2.2 eq) in anhydrous tetrahydrofuran (60 mL) at 0° C. was added 3 -(5-bromoindol-3-yl)-N-methylsuccinimide (4.00 g, 13.02 mmol) portionwise cautiously. The resulting reaction mixture was heated at reflux under nitrogen for 2 hours. The reaction mixture was then cooled, and sodium sulfate decahydrate (approximately 20 g) was added slowly and cautiously, followed by the addition of water (approximately 2 mL) and ethyl acetate (200 mL). The resulting mixture was stirred at room temperature under nitrogen for 2 hours, and then filtered through Celite®. The filtrate was evaporated under reduced pressure to afford the title compound (2.64 g, 9.46 mmol, 73%) as an off-white solid: mp, 163.0°-164.0° C.; TLC Rf =0.30 in 9:1:0.1 [methylene chloride/methanol/ammonium hydroxide]; 1H NMR (DMSO-d6) δ 11.0 (br m, NH), 7.74 (d, J=1.3 Hz, 1 H), 7.29 (d, J=8.8 Hz, 1 H), 7.20 (br s, 1 H), 7.15 (dd, J=1.7 and 8.6 Hz, 1 H), 3.55-3.45 (m, 1 H), 2.88 (t, J=8.2 Hz, 1 H), 2.62-2.42 (m, 3 H), 2.29 (s, 3 H), 2.28-2.21 (m, 1 H), 1.90-1.80 (m, 1 H); 13C NMR (DMSO-d6) d 135.4,128.2,123.4, 122.9,121.1, 118.3, 113.5,110.8, 62.6, 56.0, 42.1, 34.4, 32.2; HMRS calculated for C13H,5 BrN2 278.0415, found 278.0355.

reactant | lithium aluminum hydride | 29.0 mmol, 1.10 g, 2.2 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3 -(5-bromoindol-3-yl)-N-methylsuccinimide | 13.02 mmol, 4.00 g | BrC=1C=C2C(=CNC2=CC1)C1CC(=O)N(C1=O)C | C13H11BrN2O2
reactant | sodium sulfate decahydrate | approximately 20 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | approximately 2 mL | O | H2O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-3-(N-methylpyrrolidin-3-yl)-1 H-indole | 9.46 mmol, 2.64 g, 73% | BrC=1C=C2C(=CNC2=CC1)C1CN(CC1)C | C13H15BrN2
